US04794183
dl-cis-3-Hexadecylthio-2-hydroxymethyltetrahydropyran
6.49 g of aluminum chloride, 7.29 g of sodium iodide and a solution of 2.250 g of dl-cis-2-benzyloxymethyl-3-hexadecylthiotetrahydropyran (prepared as described in Preparation 17) in 50 ml of methylene chloride were added, in that order, to a mixture of 100 ml of acetonitrile and 50 ml of methylene chloride. The reaction mixture was then stirred at room temperature for 2 hours, after which it was diluted with water, and filtered using a Celite (trade mark) filter aid. The filtrate was extracted with methylene chloride. The extract was washed with an aqueous solution of sodium thiosulfate and saturated aqueous solution of sodium chloride and dried. The extract was then concentrated by evaporation under reduced pressure, and the residue was subjected to column chromatography through 50 g of silica gel. The fraction eluted with mixtures of ethyl acetate and hexane ranging from 1:9 to 1:3 by volume was collected to give 1.736 g of the title compound as white crystals, melting at 52°-53° C. (hexane).

reactant | aluminum chloride | 6.49 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium iodide | 7.29 g | [I-].[Na+]
reactant | cis-2-benzyloxymethyl-3-hexadecylthiotetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1SCCCCCCCCCCCCCCCC | C29H50O2S
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | cis-3-Hexadecylthio-2-hydroxymethyltetrahydropyran | 1.736 g | C(CCCCCCCCCCCCCCC)S[C@@H]1[C@@H](OCCC1)CO | C22H44O2S
